US08471004B2
H) (3S,6S)-3-[3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-6,8a-dimethyl-5-oxo-hexahydro-oxazolo[3,2-a]pyrazine-7-carboxylic acid (3,4-dichloro-phenyl)-amide
3,4-Dichlorophenyl isocyanate (28 mg, 0.15 mmol) was added at 0° C. to a solution of (3S,6S)-3-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-6,8a-dimethyl-hexahydro-oxazolo[3,2-a]pyrazin-5-one (50 mg, 0.15 mmol), then the ice bath was removed. After 30 min the reaction mixture was evaporated and the residue chromatographed (SiO2; DCM→DCM/MeOH/25% aq. ammonia solution 90:10:0.25) to pruduce the title compound (57 mg, 73%). Colourless gum, MS: 525.3 (M+H)+.

reactant | 3,4-Dichlorophenyl isocyanate | 0.15 mmol, 28 mg | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | (3S,6S)-3-[3-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-6,8a-dimethyl-hexahydro-oxazolo[3,2-a]pyrazin-5-one | 0.15 mmol, 50 mg | O[C@H]1C2(CC2)CCN(C1)CCC[C@H]1COC2(N1C([C@@H](NC2)C)=O)C | C18H31N3O3
product | (3S,6S)-3-[3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-propyl]-6,8a-dimethyl-5-oxo-hexahydro-oxazolo[3,2-a]pyrazine-7-carboxylic acid (3,4-dichloro-phenyl)-amide | ClC=1C=C(C=CC1Cl)NC(=O)N1CC2(N(C([C@@H]1C)=O)[C@H](CO2)CCCN2C[C@H](C1(CC1)CC2)O)C | C25H34Cl2N4O4
